2124-01-19 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-1-18**] 01:00 PM
   -extubated successfully
   -difficulty swallowing pills, swallow c/s'd
   Allergies:
   Methotrexate
   Pulmonary probl
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-1-18**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2124-1-18**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-1-19**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 63 (57 - 83) bpm
   BP: 127/56(77) {122/52(74) - 151/75(98)} mmHg
   RR: 11 (8 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.9 kg (admission): 92 kg
    CVP: 4 (3 - 14)mmHg
   Total In:
                                                                  5,613 mL
                                                                    798 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  5,433 mL
                                                                    738 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    340 mL
   Urine:
                                                                    740 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,571 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (573 - 573) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: GEN: Intubated and sedated, NAD
   HEENT: Dry MM, L IJ, anterior surgical scar with serosanguinous exudate
   CV: RR, NL S1 S2, possible S4, no MRG
   PULM: Coarse breath sounds throughout
   ABD: BS+ NTND, no masses or HSM
   EXTREMITIES: Clubbing, 2+ upper and lower extremity edema
   NEURO: Pupils are 2mm and minimally responsive, reflexes are 3+ on the
   L patella and achilles tendons, 2+ on the L biceps tendons, and 1+ on
   the R achilles, patellar, and biceps tendons.
   SKIN: Stage 2 saccral decubitous ulcer, chronic hyperpigmentation of
   the upper extremities, ecchymosis of the L hip
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   9.0 g/dL
   181 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   100 mEq/L
   136 mEq/L
   28.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2124-1-17**]  11:22 PM
                             [**2124-1-18**]  02:18 AM
                             [**2124-1-19**]  02:45 AM
   WBC
   9.7
   11.6
   Hct
   30
   29.4
   28.1
   Plt
   314
   300
   Cr
   0.8
   0.6
   TCO2
   35
   Glucose
   98
   95
   181
   Other labs: PT / PTT / INR:11.0/21.6/0.9, ALT / AST:24/26, Alk Phos / T
   Bili:43/0.8, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:302 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Imaging: C-spine xray [**1-19**] pending
   Microbiology: [**1-16**], [**1-17**] bcx pending
   [**1-17**] wound cx pending
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   s/p c4 corpectomy with allagraft and plate [**1-17**]
   68M with a PMH significant for AFIB with RVR, Lower GI bleed 3 weeks
   PTA, severe lung disease including IPF, pulmonary HTN, and [**Hospital 56**]
   transfered to the MICU for observation after C3-4 laminectomy for cord
   compression.
   .
   # C3-C4 Cord compression s/p laminectomy: Dr.[**Name (NI) 10397**] team is following
   along. Recommendations appreciated.
   - Pain control with dilaudid IV PRN
   - No restrictions on movement per surgery team
   - PT eval pending
   - Continue propofol ggt overnight for sedation
   .
   # Pulmonary Disease: Known to have COPD, ILD, and pulmonary
   hypertension. Also complicated by recent pneumonia with Ecoli
   bacteremia.
   - Continue CeftriaXONE 1 gm IV Q24H in place of pip/tazo for his Ecoli
   bactermia believed to be secondary to PNA. By report started ABx for
   this infection on [**2124-1-7**].
   - Continue Bactrim SS daily as Ppx against PCP
   [**Name Initial (PRE) **] Continue home Albuterol-Ipratropium [**2-12**] PUFF IH Q4H
   - Continue Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   - Continue Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN
   - Continue mechanical ventilation with PEEP 5 overnight with RSBI in
   the AM
   - Has been receiving MethylPREDNISolone Sodium Succ 20 mg IV Q24H,
   Given this, will give stress dose steroids for the next 2 days with
   MethylPREDNISolone Sodium Succ 40 mg IV Q6H and then return to home
   dose of prednisone.
   .
   # AFib w/ RVR: Currently in sinus.
   - Monitor on tele
   - Continue diltiazem 30mg po TID
   - Continue Dronedarone 400 mg PO/NG [**Hospital1 **]
   - Continue digoxin 125mcg po qAM
   - Maintain electrolytes with repletion scales
   - Attempt to keep euvolemic
   .
   # CAD and CHF: S/p anterior wall MI [**2111-8-11**], s/p BMS to LAD with ~50%
   restenosis noted in [**2122**]. Known EF of 30-40%.
   - Holding ASA pending Nsurg clearance
   - Continue Atorvastatin 10 mg PO/NG DAILY at home dose
   - Hold home Lasix for now, and follow volume status to maintain
   euvolemia
   .
   # History of GI Bleed: CBC stable this admission so far.  -
   - Continue pantoprazole 40mg daily
   - Continue PO iron
   - Iron studies pending
   .
   # Diabetes: Complicated by ongoing steroids.
   - Continue HISS and long acting insulin.
   .
   # Access: Left IJ, right Aline
   # FEN: Replete electrolytes, ADAT
   # Prophylaxis: On PPI. Holding heparin SQ until AM. On boots.
   # Code:  Full
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-1-18**] 02:00 AM
   Multi Lumen - [**2124-1-18**] 02:00 AM
   18 Gauge - [**2124-1-18**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-01-19 11:06:00 Physician Attending Progress Note
Chief Complaint: s/p laminectomy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Doing well this AM - no complaints
   Extubated yest
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-1-18**] 01:00 PM
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Methotrexate
   Pulmonary probl
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-1-18**] 08:00 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2124-1-18**] 03:00 PM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-1-19**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 71 (57 - 83) bpm
   BP: 126/58(80) {96/52(74) - 151/86(97)} mmHg
   RR: 14 (8 - 22) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.9 kg (admission): 92 kg
   CVP: 5 (3 - 14)mmHg
   Total In:
                                                                  5,613 mL
                                                                  1,212 mL
   PO:
                                                                    180 mL
                                                                    110 mL
   TF:
   IVF:
                                                                  5,433 mL
                                                                  1,102 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                    480 mL
   Urine:
                                                                    740 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,571 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   9.0 g/dL
   300 K/uL
   181 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.6 mEq/L
   19 mg/dL
   100 mEq/L
   136 mEq/L
   28.1 %
   11.6 K/uL
        [image002.jpg]
                             [**2124-1-17**]  11:22 PM
                             [**2124-1-18**]  02:18 AM
                             [**2124-1-19**]  02:45 AM
   WBC
   9.7
   11.6
   Hct
   30
   29.4
   28.1
   Plt
   314
   300
   Cr
   0.8
   0.6
   TCO2
   35
   Glucose
   98
   95
   181
   Other labs: PT / PTT / INR:11.0/21.6/0.9, ALT / AST:24/26, Alk Phos / T
   Bili:43/0.8, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:302 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PULMONARY HYPERTENSION (PULM HTN, PHTN)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   s/p c4 corpectomy with allagraft and plate [**1-17**]
   68 yo man with history of multifactorial restrictive and obstructive
   lung disease with some component related to RA (followed by [**First Name4 (NamePattern1) 294**]
   [**Last Name (NamePattern1) **]), s/p cervical laminectomy, POD #@.  Now extubaed and doing
   well.
   Will plan to call out to floor today
   Will get CT C-spine per neurosurg.
   D/C planning (rehab)
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2124-1-18**] 02:00 AM
   Multi Lumen - [**2124-1-18**] 02:00 AM
   18 Gauge - [**2124-1-18**] 02:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: